US07183306B2
2-{4-[1-(4-Chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl}ethyl methanesulfonate
To a solution of 2-{4-[1-(4-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl}ethanol (2.72 g) and triethylamine (1.55 ml) in dichloromethane (30 ml) was added dropwise methanesulfonyl chloride (0.86 ml) under ice-cooling. The reaction mixture was allowed to warm to room temperature and stirred for 1 hr.

reactant | 2-{4-[1-(4-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl}ethanol | 2.72 g | ClC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)CCO)C(F)(F)F | C18H14ClF3N2O
reactant | triethylamine | 1.55 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.86 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-{4-[1-(4-Chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl}ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)Cl)C(F)(F)F | C19H16ClF3N2O3S
